US08236976B2
Preparation of (S)-4,4-Dimethyl-1-(4-trifluoromethyl-phenyl)-pent-2-en-1-ol (5)
The product was prepared by General procedure S using 98 mg (0.55 mmol) Cy2BH, 68 μL (0.55 mmol) 3,3-dimethyl-1-butyne, 0.55 mL (1.1 mmol, 2.0 M in hexanes) Et2Zn, 4.8 mg (0.02 mmol) (−)-MIB, and 68 μL (0.50 mmol) p-trifluoromethylbenzaldehyde. The crude product was purified by column chromatography (5% ethyl acetate in hexanes) to afford the title compound as a white solid in 89% yield (115 mg, 0.45 mmol). m.p.: 30-32° C.; [α]D20=−10.0 (c=0.27, CHCl3, 95% ee); 1H NMR (CDCl3, 500 MHz): δ 0.98 (s, 9H), 2.03 (br s, 1H), 5.15 (d, 1H, J=7.0 Hz), 5.47 (dd, 1H, J=15.5, 7.2 Hz), 5.78 (d, 1H, J=15.6 Hz), 7.43 (d, 2H, J=8.0 Hz), and 7.55 (d, 2H, J=8.0 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 29.3, 33.0, 74.9, 123.1, 125.28, 125.31, 125.34, 126.4, 126.7, 129.4, 129.7, 144.6, and 147.3 ppm; IR (film): 3335, 3025, 2962, 2905, 2868, 1661, 162.0, 1477, 1463, 1414, 1364, and 1327 cm−1; HRMS-CI m/z 239.1247 [(M−F)+; calcd for C14H17F2O: 239.1247].

reactant | Cy2BH | 0.55 mmol, 98 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 3,3-dimethyl-1-butyne | 0.55 mmol, 68 μL | CC(C#C)(C)C | C6H10
reactant | Et2Zn | 1.1 mmol, 2.0 M, 0.55 mL | [Zn](CC)CC
reactant | p-trifluoromethylbenzaldehyde | 0.50 mmol, 68 μL | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
product | (S)-4,4-Dimethyl-1-(4-trifluoromethyl-phenyl)-pent-2-en-1-ol | 89% yield | CC(C=C[C@H](O)C1=CC=C(C=C1)C(F)(F)F)(C)C | C14H17F3O
